US06197966B1
Heptane (2 ml) was added to 3,5-di-t-butylcatechol (617 mg), and titanium tetraisopropoxide (Ti(OPri)4, 818 μl) was added under a nitrogen atmosphere. The mixture was stirred for 20 min at room temperature. (R)-1-phenethylamine (1.79 ml), water (20 μl) and 4,4-dimethyl-3,5,8-trioxabicyclo[5.1.0]octane (compound [1′], 2.0 g) obtained by a known method were successively added with stirring, and the mixture was stirred at room temperature for 20 hr. Heptane (4.6 ml) was added to the reaction mixture and the mixture was stirred under ice-cooling for 1 hr. The resulting crystals were collected by filtration to give (5R,6S)-2,2-dimethyl-6-[(R)-1-phenethylamino]-1,3-dioxepan-5-ol (compound [3′], 2.14 g, yield 57%).

reactant | Heptane | 2 ml | CCCCCCC | C7H16
reactant | 3,5-di-t-butylcatechol | 617 mg | C(C)(C)(C)C1=C(C(O)=CC(=C1)C(C)(C)C)O | C14H22O2
reactant | water | 20 μl | O | H2O
catalyst | titanium tetraisopropoxide | 818 μl | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 4,4-dimethyl-3,5,8-trioxabicyclo[5.1.0]octane | CC1(OCC2OC2CO1)C | C7H12O3
